US08609688B2
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[2-(dimethylcarbamoyl) morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50.0 mg, 0.101 mmol), N,N-dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine-2-carboxamide (73.4 mg, 0.204 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (7.21 mg, 0.0102 mmol), and 2M NaOH aq. (0.150 mL, 0.310) in DMF (2 mL) was heated at 160° C. for 2 hours under microwave irradiation. After cooling to room temperature, the mixture was diluted with EtOAc and washed with water (5×). The combined organic layers were dried over anhydrous Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (CHCl3/EtOAc=1:1→1:2→EtOAc) to afford crude product. The crude product was slurried in ether and collected by filtration. After the solid was washed with ether to afford desired product (25.6 mg, 36.5%) as pale yellow solid.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.101 mmol, 50.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | N,N-dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine-2-carboxamide | 0.204 mmol, 73.4 mg | CN(C(=O)C1CN(CCO1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C19H29BN2O4
reactant | NaOH | 2M, 0.150 mL | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0102 mmol, 7.21 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[2-(dimethylcarbamoyl) morpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 25.6 mg, 36.5% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2CC(OCC2)C(N(C)C)=O)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C39H44N8O4
